US04175190
A suspension of 2.5 g. of dimethyl 6-chloro-2,4-pyrimidine-dicarbamate-3-oxide in 100 ml. of methylene chloride is treated with 10 g. of 4-hydroxy-piperidine and stirred at room temperature under an argon atmosphere for 70 hours. The separated precipitate is filtered off and recrystallized from a mixture of methylene chloride and methanol, there being obtained pure dimethyl racemic-6-(4-hydroxy-1-piperidinyl)-2,4-pyrimidine-dicarbamate-3-oxide, having a melting point of 265°-266° C.

reactant | dimethyl 6-chloro-2,4-pyrimidine-dicarbamate-3-oxide | ClC1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C8H9ClN4O5
reactant | 4-hydroxy-piperidine | OC1CCNCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | dimethyl racemic-6-(4-hydroxy-1-piperidinyl)-2,4-pyrimidine-dicarbamate-3-oxide | OC1CCN(CC1)C1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C13H19N5O6
